US05712378
A saturated solution of ammonia in methanol (9 ml) was added to a solution of 5'-O-(4,4'-dimethoxytrityl)-3'-C,O-methylenethymidine (901 mg; 1.62 mmol) in methanol (3 ml), and the resulting solution stood at room temperature for 3 days. Excess ammonia and methanol was evaporated and the residue purified by chromatography (CH3OH- Hexanes-CHCl3, 1:1:8) to yield 414 mg (45%) of 5'-O-(4,4'-dimethoxytrityl)-3'- C-aminomethylthymidine as a colorless solid.

reactant | ammonia | N | H3N
reactant | 5'-O-(4,4'-dimethoxytrityl)-3'-C,O-methylenethymidine | 1.62 mmol, 901 mg | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)OC[C@@H]2[C@]3(C[C@@H](O2)N2C(=O)NC(=O)C(C)=C2)OC3)C=C1 | C32H32N2O7
reactant | methanol | 9 ml | CO | CH4O
reactant | methanol | 3 ml | CO | CH4O
product | 5'-O-(4,4'-dimethoxytrityl)-3'- C-aminomethylthymidine | 414 mg, 45% | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)OC[C@@H]2[C@](C[C@@H](O2)N2C(=O)NC(=O)C(C)=C2)(O)CN)C=C1 | C32H35N3O7
